US07576215B2
2-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-3-[4-(CARBOXYMETHYL)PHENYL]PROPANOIC ACID
The title compound was prepared from methyl 2-[4-({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl)phenyl]-3-[4-(2-methoxy-2-oxoethyl)phenyl]propanoate by LiOH hydrolysis. MS (ES) m/z 688.0.

reactant | methyl 2-[4-({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenoxy}methyl)phenyl]-3-[4-(2-methoxy-2-oxoethyl)phenyl]propanoate | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)OC)CC2=CC=C(C=C2)CC(=O)OC)C=CC1)C(F)(F)F | C43H34F3NO6
reactant | LiOH | [Li+].[OH-]
product | 2-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-3-[4-(CARBOXYMETHYL)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)O)CC2=CC=C(C=C2)CC(=O)O)C=CC1)C(F)(F)F | C41H30F3NO6
